Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
NSAIDS
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Mr. ___ is a ___ y/o man with history of ulcerative colitis, 
DMII who presents to the ED complaining of back pain and left 
lower extremity pain.  
 The patient reports that his back pain started about two weeks 
ago in the absence of any trauma. He experienced left lower 
extremity pain that prompted him to go to a chiropractor as he 
usually does for intermittent flares of chronic back pain. The 
chiropractor declined to adjust him without imaging. MRI two 
days prior to admission revealed a disc herniation at L5-S1, so 
the patient presented to the ED.  
 The patient reports that he is unable to walk due to left lower 
extremity weakness and ___ pain with any type of movement. He 
denies LLE paresthesias, saddle anesthesia, bowel or bladder 
incontinence. No change in symptoms since MRI 2 days ago. Denies 
fevers, chills.  
 He also has history of ulcerative colitis and was weaned of an 
8 month course of prednisone 7 days ago. He as scheduled to 
receive his Humera today but was unable to pick it up from ___ 
due to pain. Patient has DM2 and has not taken insulin today.  
 In the ED, initial vitals were: 10 98.6 100 151/76 18 97% RA  
 Exam notable for: Midline tenderness L4-S2, saddle anesthesia, 
normal rectal tone, unable to assess hip and knee strength due 
to severe pain, ___ plantar flexion, reduced sensation 
throughout LLE, 2+ patellar and Achilles reflex  
 Labs notable for: Na 131, K 4.5, Cl 93, HCO3, BUN/Cr ___, 
WBC 9.4, H/H 11.4/35.7, plt 360, INR 1.2; UA negative  
 Imaging notable for:  
 - MRI L-spine without contrast (___):  
 1. Disc bulge at L5-S1 with focal central disc protrusion, 
displacing the nerve roots posteriorly. Paracentral component of 
the disc bulge at L5-S1, mildly narrow the neural foramina on 
the right and moderately on the left,likely contacting the 
exiting left L5 nerve roots laterally.  
 2. Conus terminates at L1-2. No cord signal abnormality.  
 3. No vertebral body and disc signal abnormality aside from 
disc desiccation at L5-S1. No significant spinal canal or neural 
foraminal narrowing at other levels.  
 Spine was consulted and recommended: Patient evaluated and 
imaging reviewed. Recommend pain control per ED. No urgent or 
emergent Neurosurgical intervention is indicated. Recommend 
patient follow up with Dr. ___ in the ___ 
next week. He may ___ to schedule this 
appointment. Plan determined by Dr. ___.  
 Patient was given:  
 ___ 21:04 IV Morphine Sulfate 4 mg  
 ___ 21:04 IV Diazepam 5 mg  
 ___ 22:23 IV Morphine Sulfate 4 mg  
 ___ 01:01 IV Morphine Sulfate 4 mg  
 ___ 01:09 IV Diazepam 5 mg  
 ___ 02:12 IV HYDROmorphone (Dilaudid) 1 mg  
 Decision was made to admit for pain management.  
 
 Vitals prior to transfer: 88 127/85 18 96% RA  
 
 On the floor, the patient reports severe left back pain.  
 ROS: As per HPI. 10-point ROS otherwise negative.  
 
Past Medical History:
Ulcerative Colitis  
Hypertension  
DM II
GERD  
Depression
Pancreatitis
 
Social History:
___
Family History:
 - No known family history of ulcerative colitis  
 - No family history of DM  
 
Physical Exam:
ADMIT EXAM
========
 Vital Signs: 98.4 114/67 85 18 95 RA  
 General: AOx3, appears uncomfortable  
 HEENT: Sclera anicteric, MMM, EOMI, PERRL, neck supple, JVP not 
elevated,  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present  

 Ext: Warm, well perfused, 2+ pulses, no peripheral edema  
 Neuro: Mild midline tenderness to palpation over lower lumbar 
and sacral vertebrae. ___ strength in right lower extremity. 
Unable to assess strength in LLE secondary to pain. Patient 
reports sensation in left lower extremity is altered compared to 
right. Downgoing toes bilaterally. 2+ Achilles and patellar 
reflexes bilaterally.Rectal exam deferred; rectal tone normal in 
ED. Gait deferred due to pain.  
 Access: PIV  

DISCHARGE EXAM
==========
VS: T 98.2F BP 131/70 mmHg P 68 RR 18 O2 98% RA
General: NAD.
HEENT: Sclera anicteric, MMM, EOMI, neck supple, JVP not 
elevated
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present  
Ext: Warm, well perfused, 2+ pulses, no peripheral edema  
Neuro: AOx3. 
Access: PIV  
 
Pertinent Results:
ADMIT LABS
========
___ 09:00PM BLOOD WBC-9.4 RBC-4.12* Hgb-11.4* Hct-35.7* 
MCV-87 MCH-27.7 MCHC-31.9* RDW-12.5 RDWSD-39.5 Plt ___
___ 09:00PM BLOOD Neuts-76.6* Lymphs-9.1* Monos-12.4 
Eos-1.0 Baso-0.5 Im ___ AbsNeut-7.16* AbsLymp-0.85* 
AbsMono-1.16* AbsEos-0.09 AbsBaso-0.05
___ 09:00PM BLOOD ___ PTT-29.2 ___
___ 09:00PM BLOOD Glucose-174* UreaN-15 Creat-0.9 Na-131* 
K-4.5 Cl-93* HCO3-27 AnGap-16
___ 10:58PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 10:58PM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-<1

MICRO/IMAGING
===========
MRI L-Spine Second Review of OSH MRI
1. Lumbar spondylosis most pronounced at L5-S1.  Central disc 
bulge, with a
focal left central disc protrusion displaces the traversing left 
S1 nerve
roots posteriorly.  Left paracentral component of the disc bulge 
along with
facet joint osteophytes results in moderate left neural 
foraminal narrowing
and subarticular zone narrowing.
2. No cord signal abnormalities are identified.
 

DISCHARGE LABS
===========
___ 07:15AM BLOOD WBC-10.4* RBC-4.20* Hgb-11.5* Hct-36.0* 
MCV-86 MCH-27.4 MCHC-31.9* RDW-12.3 RDWSD-38.5 Plt ___
___ 07:15AM BLOOD Glucose-142* UreaN-14 Creat-1.1 Na-137 
K-4.5 Cl-96 HCO3-27 AnGap-19
 
Brief Hospital Course:
Mr ___ is a ___ with history of ulcerative colitis 
(relatively new Dx), DMII who presented to ED complaining of 
back and LLE pain. Had some worrisome cord compression signs, 
and is on immunosuppresants for UC. In ED, MRI found to be w/o 
acute issue, has L5-S1 radiculopathy, was cleared by ___ for dc 
home with nsgy f/u in 1 wk, admitted for pain control. Also had 
mild UC flare as hadn't taken his scheduled humira dose ___ 
going to ED, was started on mesalamine enemas until he could 
fill his Humira as outpatient. Briefly held his lisinopril as he 
wasn't sure of his dose and BPs were on lower end, to be 
restarted upon DC. 

# L5-S1 disc herniation: Patient presented with back pain, LLE 
weakness, saddle anesthesia, urinary hesitancy. Outpatient MRI 
showed disc bulge at L5-S1 with focal central disc protrusion, 
displacing the nerve roots posteriorly. Patient was seen by 
neurosurgery in ED, who recommended conservative management and 
follow up with spine as outpatient, ok for DC from ED. Managed 
briefly with IV dilaudid and PO oxycodone, transitioned to orals 
only pain regimen, will f/u in 1x wk with ___. Also 
given Rx for outpatient ___. On discharge patient was able to 
ambulate without assistance.
 
# Ulcerative colitis: Had a bloody BM during hospitalization, 
appears at his baseline, as hasn't been able to pick up his home 
Humira. H&H remained stable. Continued home mesalamine, started 
mesalamine PR while pt off of Humira, to be continued until he 
is able to pick it up.

CHRONIC ISSUES  
==============
# DMII: Unknown home insulin ; ISS while inpatient, was stable
# Depression: Continued home venlafaxine  
# HTN: presently normotensive, held home lisinopril while 
inpatient
# GERD: Continued home omeprazole  
 
CORE MEASURES:  
==============  
# CODE: Full 
# CONTACT: Father ___ (___)  

___ ISSUES
=============
-f/u with ___ as outpatient in 1 wk for L5-S1 
radiculopathy
-continue on mesalamine enemas until can pick up Humira
-started on short course of opiates for severe radiculopathy

# CODE: Full (confirmed ___ 
# CONTACT: Father ___ (___) 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 900 mg PO TID 
2. Mesalamine ___ 1600 mg PO BID 
3. Lisinopril 40 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. Venlafaxine XR 75 mg PO DAILY 
6. Glargine 10 Units Breakfast
Glargine 20 Units Bedtime

 
Discharge Medications:
1.  Mesalamine Enema 4 gm PR QHS 
please take until you have acquired your home Humira 
RX *mesalamine 4 gram/60 mL 1 enema(s) rectally at bedtime 
Refills:*0 
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four hours Disp 
#*15 Tablet Refills:*0 
3.  Gabapentin 900 mg PO TID 
RX *gabapentin 300 mg 3 (three) capsule(s) by mouth three times 
a day Disp #*18 Capsule Refills:*0 
4.  Glargine 10 Units Breakfast
Glargine 20 Units Bedtime 
5.  Lisinopril 40 mg PO DAILY  
6.  Mesalamine ___ 1600 mg PO BID  
7.  Omeprazole 40 mg PO DAILY  
8.  Venlafaxine XR 75 mg PO DAILY  
9.Outpatient Physical Therapy
Dx: ICD 10: ___ intervertebral disc hernation
Tx: Diagnosis and treatment
Duration: Ongoing

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
L5-S1 Radiculopathy

Secondary:
Ulcerative Colitis
DM2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after you were found 
to have severe back pain with neurological symptoms. Our 
neurosurgeons evaluated you and after reviewing your MRI, felt 
you were safe to discharge home with follow up in their clinic 
in 1 week. However, your pain was severe, so we helped to 
control your pain with stronger pain medication before you were 
discharged. Please follow up with your stomach and primary care 
doctors as ___. 

It was a pleasure taking care of you!

Your ___ Team
 
Followup Instructions:
___